Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left parotid mass
 
Major Surgical or Invasive Procedure:
S/p left parotidectomy for parotid mass

 
History of Present Illness:
___ male with likely left parotid pleomorphic adenoma with 
possible malignant transformation, 3.8cm.
 
Past Medical History:
Gait disorder/peripheral neuropathy, HLD, depression, parotid 
cancer s/p RT
 
Physical Exam:
Afebrile, vital signs stable
Gen: no acute distress, comfortable lying in bed
HEENT: Neck flat, soft, incision c/d/i, JP x1 in place with S/S 
drainage. Mild to moderate weakness of the left smile, marg 
weakness. 
___: RRR, WWP
Pulm: on RA, normal work of breathing. No stridor or stertor
 
Brief Hospital Course:
The patient was admitted to the Otolaryngology-Head and Neck 
Surgery Service on ___ after undergoing a Left parotidectomy 
with facial nerve monitoring. Please see the separately dictated 
operative note for details of procedure. The patient was 
extubated and transferred to the hospital floor for further 
post-operative care. The post-operative course was uneventful 
and the patient was discharged to home on POD1.

Hospital Course by Systems:

Neuro: Pain was well controlled, initially with IV regimen which 
was transitioned to oral regimen (tylenol & oxycodone PRN) once 
tolerating oral intake.  

Cardiovascular: Remained hemodynamically stable and was 
restarted on home cardiac medications post-operatively except 
for ASA; pt instructed to hold ASA until POD7.

Pulmonary: Oxygen was weaned and the patient was ambulating 
independently without supplemental oxygen prior to discharge.

HEENT: Drain placed intraoperatively was monitored closely. JP 
drain teaching was performed with the patient and his family. Pt 
comfortable with drain care at home and instructed to schedule 
f/u appt with Dr. ___ on ___ for drain removal. 

GI: Diet was advanced as tolerated. Bowel regimen was given prn.

GU: Patient was able to void independently.

Heme: Received heparin subcutaneously and pneumatic compression 
boots for DVT prophylaxis.

Endocrine: Monitored without any remarkable issues.

ID: Received perioperative antibiotics of IV Ancef & discharged 
on Keflex. 

On ___ the patient was discharged to home in stable 
condition, ambulating and voiding independently, and with 
adequate pain control.  The patient was given instructions to 
follow-up in clinic with:

Dr. ___- ___

and PCP ___ ___ weeks. Pt was given detailed discharge 
instructions outlining wound care, activity, diet, follow-up and 
the appropriate medication scripts.

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Please buy this over the counter  
2. cephalexin 500 mg capsule
1 capsule(s) by mouth twice a day While your drain is in place
3. oxycodone 5 mg tablet
1 tablet(s) by mouth every 4 hours as needed for when having 
pain. take a stool softener when taking this medication
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left parotid mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Parotidectomy Surgery Patient Discharge Instructions 

You were in the hospital for surgery to remove a parotid gland 
mass.

Please follow these instructions as you recover from your 
surgery 

What should I expect? 
-It is normal to feel tired or washed out after surgery. 
-Rest is important, but walking is also important to prevent 
problems and to regain your strength and energy. Pace yourself 
according to how you feel. Rest when you feel tired. 
-You may have a sore throat if you had general anesthesia. This 
is normal and will go away. 
-You will have numbness. This numbness usually disappears over a 
period of 4-to-6 months. 
-There might be a slight indentation at the surgical site. 

How do I manage my pain? 
-Some pain is normal after surgery. 
-For mild pain take acetaminophen (Tylenol).
-For moderate-to-severe pain you may be given a prescription for 
a narcotic pain medicine. Take pain medicine only as directed by 
your doctor. 
-___ people feel drowsy and lightheaded after taking narcotic 
medicine. Please do not drive. 
-Acetaminophen (Tylenol) is contained in many medicines. Do not 
take Tylenol in addition to another product that contains 
Tylenol such as Percocet, Vicodin or Tylenol#3 unless 
recommended by your doctor. Do not take more than 4,000mg of 
Tylenol in 24 hours. 
-Narcotic pain medicine can cause constipation. To make it 
easier to have a bowel movement: 
Drink extra fluids. 
Eat foods high in fiber. 
Take a stool softener like docusate (Colace). 
-If your pain medicine is not working, call your doctor_x0092_s 
office. 

What medications should I take?
-Please resume your home medications as previously prescribed.
-If you take Aspirin, you may resume taking it one week after 
surgery.
-Pain medications as above.
-Take your antibiotic while your drain is in place (KEFLEX).

How do I care for myself at home? 
Drain care
-Please continue managing your drain and recording outputs every 
8 hours as shown by nursing. 
-MAKE AN APPOINTMENT WITH ___. ___ DRAIN REMOVAL ON ___ 
___. 

Incision care
-If you have a gauze bandage, you may remove it in 48 hours. 
-Keep your incision site clean and dry. 
-If your incision is closed with staples or sutures, they will 
be removed at your follow up appointment.
-If your incision is covered with steri-strips, they will fall 
off on their own in 7-to-10 days. Do not peel them off.  Keep 
clean and dry

Showering/Bathing 
-You may shower after 48 hours after the drain is removed. Do 
not scrub your incision.  Gently clean with warm soapy water and 
pat dry.
-Do not soak your incision in water (bathing, swimming, or using 
a sauna, etc) swim for 2 weeks and cleared by your surgeon. 

Activity 
-Walking is recommended. 
-Climbing stairs is allowed. Keep your head up when you walk. 
-Slowly restart your normal daily activities. Slowly start to do 
more each day. 
-Do NOT do any strenuous activity like aerobics, running or 
weight lifting until your surgeon says it_x0092_s ok.  

Driving 
-Do NOT drive for 24 hours after surgery. 
-Do NOT drive until you are able to move your neck from side to 
side easily. 
-Do NOT drive while you are taking narcotic medicine for pain. 

Safety 
-Do NOT drink alcoholic beverages for 24 hours after surgery or 
if you are taking narcotic pain medications. 
-Do NOT make any important decisions for 24 hours after surgery 
or if you are taking narcotic pain medications. 

What may I eat? 
-You may eat whatever you want. 
-If you throat is sore, eat soft foods. 

Follow up
-If you have chest pain or difficulty breathing, call ___ or go 
to the nearest emergency room.
-Please call or return to the hospital for fever/chills, 
redness, swelling, discharge from wound, or anything else that 
is troubling you. 
-Please go to your follow up appointment with your surgeon.
-Please follow up with your primary care physician ___ ___ 
days.
-If you have any questions, please call your surgeon.  During 
regular business hours, call the clinic 
Dr. ___- ___
If after hours or on the weekend, call the hospital operator 
___ and ask to page the ENT resident on-call.
 
Followup Instructions:
___